US07893056B2
A solution of commercially available 1,1-dimethylethyl(trans)-3-amino-4-methyl-1-pyrrolidinecarboxylate (1 g, 5 mmol) and formaldehyde (0.69 mL, 25 mmol, 37% in water) in THF (20 mL) was stirred at room temperature for 1 hour. NaBH(OAc)3 (7.4 g, 35 mmol) was added and the reaction was stirred overnight. 1 M NaOH (20 mL) was added and the layers were allowed to separate. The aqueous phase was extracted with ether and the combined organics were dried over sodium sulfate, filtered and concentrated to yield a crude residue. This material was dissolved in 4 M HCl in dioxane (24 mL) and stirred for 3 hours. Evaporation of the solvent yielded (trans)-N,N,4-trimethyl-3-pyrrolidinamine in quantitative yield. LCMS: (M+H)+: 129.1.

reactant | 1,1-dimethylethyl(trans)-3-amino-4-methyl-1-pyrrolidinecarboxylate | 5 mmol, 1 g | N[C@@H]1CN(C[C@H]1C)C(=O)OC(C)(C)C | C10H20N2O2
reactant | formaldehyde | 25 mmol, 0.69 mL | C=O | CH2O
reactant | NaBH(OAc)3 | 35 mmol, 7.4 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaOH | 1 M, 20 mL | [OH-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | HCl | 4 M | Cl | ClH
solvent | dioxane | 24 mL | O1CCOCC1 | C4H8O2
product | (trans)-N,N,4-trimethyl-3-pyrrolidinamine | quantitative yield | CN([C@@H]1CNC[C@H]1C)C | C7H16N2
